US04328244
To a stirred slurry of 52.0 g (0.30 mole) of 3-aminobenzenesulfonic acid in 225 ml of hot (65° C.) water was added 83.0 g (0.61 mole) of sodium acetate trihydrate and 75 ml of acetonitrile. The temperature was stabilized at approximately 67°-68° C. and a solution of 30.93 g (0.20 mole) of 2,5-dimethylbenzyl chloride in 75 ml of acetonitrile added dropwise over 1 hr. The resulting orange solution was refluxed for 31/2 hrs, then acidified with 40 ml of conc. HCl while simultaneously distilling off 80 ml of acetonitrile. After placing the reaction mixture in a refrigerator a flocculent cream-colored precipitate formed which was collected by vacuum filtration, washed with water and air-dried. The collected solids were then slurried in 400 ml of boiling methanol for 20 minutes, then vacuum filtered and then dried in vacuo at about 60° C., which afforded 30.86 g (53.0% yield) of purified 3-(((2,5-dimethylphenyl)methyl)amino)benzenesulfonic acid as a white powder having a melting point greater than 275° C.

reactant | 3-aminobenzenesulfonic acid | 0.30 mole, 52.0 g | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | sodium acetate trihydrate | 0.61 mole, 83.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 2,5-dimethylbenzyl chloride | 0.20 mole, 30.93 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
reactant | HCl | 40 ml | Cl | ClH
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-(((2,5-dimethylphenyl)methyl)amino)benzenesulfonic acid | 30.86 g, 53.0% yield | CC1=C(C=C(C=C1)C)CNC=1C=C(C=CC1)S(=O)(=O)O | C15H17NO3S
